US08912169B2
Step 1: Synthesis of (E)-N,N,N′,N′-tetrabenzylbut-2-enediamide
To a cooled (−5° C.) solution of N,N-dibenzylamine (19.3 mL, 100 mmol) in DCM (200 mL) is added TEA (13.8 mL, 100 mmol). To this solution is added, drop wise over 5 minutes, fumaroyl chloride (4.2 mL, 40 mmol). On complete addition, the cold bath is removed and stirring continued for 1 hr. This solution is diluted with DCM, washed with HCl (approx. 100 mL of 1M aq.) then water (2×), dried over MgSO4 and concentrated. The solid residue is crystallized from hot (109° C.) toluene to give the title compound (17.9 g) as a white solid. ESI-MS (m/z) 475 (MH)+.

reactant | N,N-dibenzylamine | 100 mmol, 19.3 mL | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | fumaroyl chloride | 40 mmol, 4.2 mL | C(\C=C\C(=O)Cl)(=O)Cl | C4H2Cl2O2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | (E)-N,N,N′,N′-tetrabenzylbut-2-enediamide | 17.9 g | C(C1=CC=CC=C1)N(C(\C=C\C(=O)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C32H30N2O2
